2163-12-19 20:39:00 Physician Attending Progress Note
Chief Complaint: Cardiac Arrest
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with PEA arrest following supine positioning--this was
   associated with rapid return of effective circulation in under 5
   minutes with administration of Epi/Atropine and with chest compressions
   applied.  He did have initial ABG with severe respiratory acidosis but
   no medications given and this was immediately following intubation.
   Patient then sent to ICU for further care
   Patient admitted to ICU on levophed with persistent hypotension and was
   able to wean levophed off after third attempt.  Given clot in right IJ
   and SCV and fistula in left arm opportunities for access are limited.
   24 Hour Events:
   CVL PLacement-given capacity to wean off of levophed will continue with
   midline catheter and peripheral IV given above access concerns with
   FEM-[**Doctor Last Name **] graft on left and upon visualization difficult access to venous
   structure on right side with vein posterior to artery.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2163-12-19**] 08:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.7
C (96.2
   HR: 85 (68 - 115) bpm
   BP: 162/61(90) {72/36(46) - 162/65(90)} mmHg
   RR: 26 (13 - 70) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             896 mL
   PO:
             TF:
   IVF:
   896 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     80 mL
   Urine:
   30 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    816 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 320 (320 - 380) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.37/39/388/21/-2
   Ve: 9.5 L/min
   PaO2 / FiO2: 776
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: right)
   Abdominal: Bowel sounds present, PEG in place
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   225
   3.1
   21
   3.3
   44
   103
   142
   27.8
   6.2
        [image002.jpg]
                             [**2163-12-19**]  05:42 PM
   TCO2
   23
   Fluid analysis / Other labs: 7.37/39/388--following intubation
   Imaging: CXR--Complete opacification of right lung in am.
   Following intubation patient with ETT in good position and decrease in
   right sided air density seen at base immediately following intubation.
   ECG: atrial rhythm with atypical P-wave morphology
pattern consistent
   with wandering atrial pacemaker and intermttent paced beats
   Assessment and Plan
   74 yo male with renal failure and recent GBS sepsis found on initial
   admission to the ICU to have severe altered mental status and with
   chronic substantial right sided effusion who was found to have positive
   RPR on extensive evaluation for altered mental status which accompanied
   his initial admission.  Now in the setting of attempted LP patient had
   evolution of hypoxia in the setting of mucus plugging of right maintem
   bronchus and PEA arrest with positioning for LP and assumption of the
   supine position.  He did not have significant evidence of hypoxia
   following intubation and importantly had re-expansion of right lung
   quickly with tube placement and suctioning.
   1) CARDIAC ARREST-_This was clear PEA arrest--the differential is
   broad--we have risk for but not documentation of hyper or hypokalemia,
   acidemia is seen and hypoxia may have resulted with positioning on the
   right side resulting in severe and transient hypoxia.  The severe
   acidosis did appear to be acute and attributable to acute respiratory
   acidosis in addition to renal failure.  No hypoglycemia, temperature
   normal and hypovolemia not in evidence. Finally--thrombosis, tamponade,
   tension PTX and trauma/toxins do not appear to be in evidence.
   -Will continue to monitor lytes and rhythm
   -Will ventilate to goal PCO2 of 40-45
   -Will follow up with ECG
   -Will avoid right side down positioning and will confirm positioning
   with primary team as this does appear to be most likely explanation.
   -He retains a pressor requirement with levophed intermittently
   needed
will provide volume support to look to wean pressor tonight
   2)Respiratory Failure-_This is in the setting of compromise or right
   sided ventilation with pleural effusion complicated by mucus
   plugging
he did have rapid improvement with re-expansion of right lung
   -Maintain A/C support
   -Wean FIO2 as possible
   -Maintain repeat CXR given concern for pneumothorax
   -Sputum Cultures sent
   3)Shock
Likely cardiogenic with recent arrest but hypovolemic
   contribution must be considered
as patient had dialysis today and
   filling pressures may be elevated relative to baseline given cardiac
   arrest.  Sepsis is very unlikely without additional supporting data
   -Fluid bolus
   -Wean levophed
   -Will place catheter for any persistent pressor requirement.
   4)UTI-
   VRE treated with Linezolid
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)-
   -Maintain HD on schedule
   -Will look to avoid placement of left sided upper extremity if possible
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Midline - [**2163-12-19**] 05:18 PM
   22 Gauge - [**2163-12-19**] 05:19 PM
   -Have assessed for CVL and are left with left groin placement for
   femoral venous catheter if needed
with need defined as persistent
   pressor requirement.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes

2163-12-20 10:16:00 Physician Attending Progress Note
Chief Complaint: PEA
   HPI:
   74yoM with ESRD on HD, PVD, CAD, chronic right sided pleural effusion
   who had PEA during LP and PICC yesterday.  Likely etiology was mucus
   plugging, collapse in setting of chronic R effusion, with development
   of hypoxemia.
   24 Hour Events:
   Admitted post-PEA yesterday with improvement in his oxygenation s/p
   intubation.  He had placement of a femoral CVL because of history of
   upper central vein access difficulties.  Attempts to wean levophed
   resulted in hypotension, so has remained on low-dose of levophed.
   Started on hydrocortisone at stress dose given history of adrenal
   insufficiency (chronic prednisone).
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-19**] 10:50 PM
   [**Year (4 digits) **]
   Fluconazole
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2163-12-19**] 10:00 PM
   Fentanyl - [**2163-12-19**] 10:00 PM
   Lansoprazole (Prevacid) - [**2163-12-20**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2163-12-20**] 08:17 AM
   Dextrose 50% - [**2163-12-20**] 08:27 AM
   Other medications:
   Insulin sliding scale
   Prednisone 5mg daily
   ASA
   Simvastatin
   Hydrocortisone IV
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-20**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 70 (60 - 115) bpm
   BP: 142/42(69) {72/36(46) - 162/65(90)} mmHg
   RR: 20 (13 - 70) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
             Total In:
                                                                  1,685 mL
                                                                    279 mL
   PO:
             TF:
   IVF:
                                                                  1,625 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                     80 mL
                                                                      0 mL
   Urine:
                                                                     30 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,605 mL
                                                                    279 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 380) mL
   Vt (Spontaneous): 330 (324 - 401) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/42/185/22/2 (PSV 18/5)
   Ve: 5.8 L/min
   PaO2 / FiO2: 463
   Physical Examination
   Gen: currently somnolent, moves head with stimulation
   Chest: decreased breath sounds left base
   CV: no murmurs
   Abd: soft, NT
   Ext:no edema
   Neuro: mental status difficult to assess. Off sedation, not yet moving
   extremities
   Labs / Radiology
   7.7 g/dL
   302 K/uL
   57 mg/dL
   3.2 mg/dL
   22 mEq/L
   3.9 mEq/L
   46 mg/dL
   107 mEq/L
   140 mEq/L
   26.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2163-12-19**]  05:42 PM
                             [**2163-12-20**]  01:40 AM
                             [**2163-12-20**]  02:34 AM
                             [**2163-12-20**]  04:09 AM
                             [**2163-12-20**]  04:24 AM
   WBC
   9.0
   Hct
   26.0
   Plt
   302
   Cr
   3.2
   TCO2
   23
   21
   22
   28
   Glucose
   57
   Other labs: PT / PTT / INR:13.9/37.7/1.2, ALT / AST:50/91, Alk Phos / T
   Bili:139/0.1, Lactic Acid:1.6 mmol/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Telemetry: episodic bradycardia without PPM function.
   CXR ([**12-19**]): collapse of  right lung and effusion.
   CXR ([**12-19**]), post-intubation: re-expansion of right lung fields
   Assessment and Plan
   74M with ESRD, chronic right-sided effusion, PVD, CAD; s/p PEA arrest
   secondary to hypoxemia.
   1.  Respiratory Failure: Intubated during PEA.  Oxygenation improved.
   Expect low tidal volume
   - Currently on PSV 5/5, will f/u ABG.  Off sedation his mental status
   is minimal; re-assess and consider extubation today.
   2.  Shock:  Persistent levophed requirement.  No evidence of sepsis;
   likely myocardial stunning post-arrest.
   - Attempt to wean levophed today, suspect will have persistent pressor
   requirement  that persists despite overall improvement.
   3.  ID:  Possible history of neurosyphillis that was undergoing
   evaluation.
   - completed course of [**Last Name (LF) 1829**], [**First Name3 (LF) **] will discontinue
   - Ceftriaxone for possible syphilis; will plan for empiric 14d course
   - Fluconazole, unclear indication; will see if still necessary.
   4.  Renal:
   - HD when needed
   5.  CV:  ? if PPM was not functioning as developed HR to 40s overnight.
   - Call EP regarding non-urgent PPM interrogation.
   Addendum: extubated uneventfully. On a touch a levophed. Will wean as
   tolerated. Mental status poor at baseline but not yet there. Will
   likely be stable to transfer to floor in AM.
   ICU Care
   Nutrition: Holding tube feeds for possible extubation
   Glycemic Control:  Insulin sliding scale
   Lines:
   Midline - [**2163-12-19**] 05:18 PM
   22 Gauge - [**2163-12-19**] 05:19 PM
   Arterial Line - [**2163-12-19**] 07:00 PM
   Multi Lumen - [**2163-12-19**] 10:00 PM (femoral)
 discontinue when off
   pressors
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP:  HOB/chlorhexidine/mouthcare
   Communication:  Family updated on admission
   Code status: Full code
   Disposition : Critically ill, remain in ICU
   Total time spent:  35minutes CCT

2163-12-20 11:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Triple lumen CVL placed in R femoral vein
   Tried to wean norepinephrine but repeatedly became hypotensive.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-19**] 10:50 PM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2163-12-19**] 10:00 PM
   Fentanyl - [**2163-12-19**] 10:00 PM
   Lansoprazole (Prevacid) - [**2163-12-20**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2163-12-20**] 08:17 AM
   Dextrose 50% - [**2163-12-20**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-20**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 72 (60 - 115) bpm
   BP: 130/38(63) {72/36(46) - 162/65(90)} mmHg
   RR: 22 (13 - 70) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
             Total In:
                                                                  1,685 mL
                                                                    299 mL
   PO:
             TF:
   IVF:
                                                                  1,625 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                     80 mL
                                                                      0 mL
   Urine:
                                                                     30 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,605 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 320 (320 - 380) mL
   Vt (Spontaneous): 330 (324 - 401) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/40/160/22/0
   Ve: 5.8 L/min
   PaO2 / FiO2: 400
   Physical Examination
   Gen: Sedated on the vent
   Heart: Irregular rhythm, regular rate
   Lungs: Decreased breath sounds on the right, clear on the left
   Abd: Soft, NT, ND, BS+, PEG tube non-erythematous
   Ext: Bilateral mid-metatarsal amputations
   Labs / Radiology
   302 K/uL
   7.7 g/dL
   57 mg/dL
   3.2 mg/dL
   22 mEq/L
   3.9 mEq/L
   46 mg/dL
   107 mEq/L
   140 mEq/L
   26.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2163-12-19**]  05:42 PM
                             [**2163-12-20**]  01:40 AM
                             [**2163-12-20**]  02:34 AM
                             [**2163-12-20**]  04:09 AM
                             [**2163-12-20**]  04:24 AM
                             [**2163-12-20**]  10:50 AM
   WBC
   9.0
   Hct
   26.0
   Plt
   302
   Cr
   3.2
   TCO2
   23
   21
   22
   28
   25
   Glucose
   57
   Other labs: PT / PTT / INR:13.9/37.7/1.2, ALT / AST:50/91, Alk Phos / T
   Bili:139/0.1, Lactic Acid:1.6 mmol/L, Ca++:9.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   74 yo M w/ ESRD on HD and chronic R sided pleural effusion  s/p PEA
   arrest
   .
   1.       Hypotension: Likely secondary to myocardial stunning from his
   arrest. Was pulseless for approx 5 minutes. Have been very slowly
   weaning norepinephrine.
   - Wean norepinephrine
   - Hold fluids as is likely cardiac etiology given arrest
   2.       Respiratory failure: Likely secondary to mucous plugging in
   partially collapsed right lung. RSBI high at 110 but likely has chronic
   low volume  ventilation given loss of R lung space.  ABG appears easily
   compensating.
   - Extubate today
   - consider decortication vs. thoracentesis though this chronic effusion
   was most likely an iatrogenic effect of previous chest tube. Will
   discuss w/ his PCP.
   3.       Possible neurosyphillis: ID wants to treat empirically given
   yesterday
s events
   - IV ceftriaxone
   4.       ESRD: No urgent need for dialysis today. Not hyperkalemic,
   acidotic or fluid overloaded.
           - Hold on dialysis today
   5.       VRE UTI: finished course of linezolid
           - linezolid d/c
   6.       DMII: continue previous regimen
          7. Vasculopathy: continue simvastatin, ASA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2163-12-19**] 05:18 PM
   22 Gauge - [**2163-12-19**] 05:19 PM
   Arterial Line - [**2163-12-19**] 07:00 PM
   Multi Lumen - [**2163-12-19**] 10:00 PM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending wean levophed and extubation

2163-12-21 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**12-20**]
   Extubated
   Weened off Levo at 8pm, fine until CXR in am, hypotensive to 60s,
   restarted Levo, 250cc bolus.
   ID says just treat with CTX for 14 days, no repeat LP
   EP interogated pacer, no episodes of bradycardia. Consider getting dual
   chamber pacer at some point in the future, follow up with his
   cardiologist at [**Hospital1 147**].
   Spoke with family and updated them. Important to pass off to floor team
   that communication with family is very important and they didn't feel
   that they were getting enough on the floor before.
   Baseline mental status seems to be relatively laconic and occasionally
   oriented x2ish but doesn't speak if he's feeling ill.
   Restarted home TF as his FSBS have been low all day.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-20**] 05:02 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2163-12-20**] 08:16 AM
   Dextrose 50% - [**2163-12-20**] 06:56 PM
   Heparin Sodium (Prophylaxis) - [**2163-12-20**] 08:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-21**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.8
C (96.5
   HR: 79 (64 - 93) bpm
   BP: 112/33(56) {66/32(47) - 169/58(93)} mmHg
   RR: 19 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
             Total In:
                                                                    658 mL
                                                                    977 mL
   PO:
             TF:
                                                                     42 mL
                                                                    346 mL
   IVF:
                                                                    426 mL
                                                                    331 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    658 mL
                                                                    977 mL
   Respiratory support
   O2 Delivery Device: 3L Nasal cannula
   SpO2: 98%
   ABG: 7.37/39/121/22/-2
   Physical Examination
   Gen: NAD
   Heart: Irregular rhythm, regular rate
   Lungs: Decreased breath sounds on the right, clear on the left
   Abd: Soft, NT, ND, BS+, PEG tube non-erythematous
   Ext: Bilateral mid-metatarsal amputations
   Labs / Radiology
   261 K/uL
   7.9 g/dL
   118 mg/dL
   3.8 mg/dL
   22 mEq/L
   4.3 mEq/L
   53 mg/dL
   105 mEq/L
   140 mEq/L
   25.3 %
   6.6 K/uL
        [image002.jpg]
                             [**2163-12-19**]  05:42 PM
                             [**2163-12-20**]  01:40 AM
                             [**2163-12-20**]  02:34 AM
                             [**2163-12-20**]  04:09 AM
                             [**2163-12-20**]  04:24 AM
                             [**2163-12-20**]  10:50 AM
                             [**2163-12-20**]  02:50 PM
                             [**2163-12-21**]  03:55 AM
   WBC
   9.0
   6.6
   Hct
   26.0
   25.3
   Plt
   302
   261
   Cr
   3.2
   3.8
   TCO2
   23
   21
   22
   28
   25
   23
   Glucose
   57
   118
   Other labs: PT / PTT / INR:14.0/45.2/1.2, ALT / AST:32/35, Alk Phos / T
   Bili:127/0.1, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:142 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
Micro:
[**2163-12-19**] 5:29 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2163-12-19**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      commensal respiratory flora.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
      GRAM NEGATIVE ROD #2.    RARE GROWTH.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
 PNEUMONIA, OTHER
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ALTERATION IN NUTRITION
   74 yo M with ESRD, effusion, altered mental status, s/p PEA arrest,
   hypotension, hypoxemia, and possible neuro-syphilis.
   #  Hypotension: off pressors currently.  His shock was likely [**2-14**]
   myocardial stunning from hypoxia and contusion from CPR.  Further
   differential includes septic shock and adrenal insufficiency.  Patient
   s/p PEA arrest which was most likely secondary to respiratory arrest
   from mucous plugging and possibly laying on his right side with all of
   his cardiac output going to non-ventilated lung.
   - levophed for MAP < 60
   - stress dose steroids.  Will go to prednisone 20 for a few days
   tomorrow and d/c hydrocort.
   - f/u GNR in sputum
   - f/u CXR to watch for resolution/evolution of ? PTX
   .
   # Hypoxemic respiratory failure: Now stable post-extubation on 3L NC.
   Sputum with GNRs, and CXR could obscure RLL pneumonia.  Will keep
   right-side up to perfuse good side.
   - continue ceftriaxone for now, change to cefepime/cipro if worsening
   - follow sputum culture
   - Q2h pulmonary toilet
   .
   #Possible Neurosyphilis: Per ID will start CTX
   - CTX 2g Q24 in PM for 14 days
   .
   #ESRD: No urgent need for dialysis currently, electrolytes stable.
   - f/u renal recs
   - dialysis dose medications
   - likely HD tomorrow
   .
   # Pacemaker: EP interogated pacer, no episodes of bradycardia. Consider
   getting dual chamber pacer at some point in the future, follow up with
   his cardiologist at [**Hospital1 147**].
   .
   #VRE UTI: finished course of linezolid [**12-20**]
   .
   #DMII: Continue previous insulin regimen
   .
   #Vasculopathy:
   - continue simvastatin, lisinopril and ASA when stable
   .
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2163-12-20**] 10:20 PM 50 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   Midline - [**2163-12-19**] 05:18 PM
   22 Gauge - [**2163-12-19**] 05:19 PM
   Arterial Line - [**2163-12-19**] 07:00 PM
   Femoral Multi Lumen - [**2163-12-19**] 10:00 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Wife and daughter; daily family updates
   Code status: Full code
   Disposition: ICU

2163-12-21 10:01:00 Physician Attending Progress Note
Chief Complaint: PEA
   HPI:
   74yoM admitted s/p PEA arrest in setting of hypoxemia.
   24 Hour Events:
   Extubated yesterday and stable oxygenation/PaCO2 overnight.
   Taken off levophed overnight but HoTN this morning and responded to
   fluid bolus.
   Family updated yesterday and discussed their concerns regarding
   communication with the medical teams.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-20**] 05:02 PM
   Fluconazole
   Other ICU medications:
   Dextrose 50% - [**2163-12-20**] 06:56 PM
   Heparin Sodium (Prophylaxis) - [**2163-12-20**] 08:24 PM
   Other medications:
   Prednisone 5mg
   Insulin sliding scale
   ASA 81mg daily
   Simvastatin
   Hydrocortisone 100mg IV q8h
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-21**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 83 (64 - 93) bpm
   BP: 110/39(58) {66/31(47) - 169/58(93)} mmHg
   RR: 19 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    658 mL
                                                                  1,352 mL
   PO:
             TF:
                                                                     42 mL
                                                                    458 mL
   IVF:
                                                                    426 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    658 mL
                                                                  1,352 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.37/39/121/22/-2
   PaO2 / FiO2: 121
   Physical Examination
   Gen: Somnolent, does not awaken to clap, sternal rub; minimally
   withdraws to pain.
   Chest: rhonchorous lung sounds, but audible in bilateral anterior
   fields
   CV: IR/IR
   Abd:s/nt/nd
   Ext: little edema, warm
   Labs / Radiology
   7.9 g/dL
   261 K/uL
   118 mg/dL
   3.8 mg/dL
   22 mEq/L
   4.3 mEq/L
   53 mg/dL
   105 mEq/L
   140 mEq/L
   25.3 %
   6.6 K/uL
        [image002.jpg]
                             [**2163-12-19**]  05:42 PM
                             [**2163-12-20**]  01:40 AM
                             [**2163-12-20**]  02:34 AM
                             [**2163-12-20**]  04:09 AM
                             [**2163-12-20**]  04:24 AM
                             [**2163-12-20**]  10:50 AM
                             [**2163-12-20**]  02:50 PM
                             [**2163-12-21**]  03:55 AM
   WBC
   9.0
   6.6
   Hct
   26.0
   25.3
   Plt
   302
   261
   Cr
   3.2
   3.8
   TCO2
   23
   21
   22
   28
   25
   23
   Glucose
   57
   118
   Other labs: PT / PTT / INR:14.0/45.2/1.2, ALT / AST:32/35, Alk Phos / T
   Bili:127/0.1, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:142 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Micro:  Sputum:  sparse growth of GNR
   CXR: Possible increased collapse in RM/RUL
   Assessment and Plan
   74M s/p PEA arrest secondary to hypoxemia.
   1.       Hypotension: suspect related to decreased cardiac output
   post-arrest.  Little evidence of sepsis
   - currently off pressors x 1 hour
   - fluid bolus prn
   - monitor BP
   - Continue hydrocort as has remained HoTN, if stable plan to change to
   prednisone at home dose.
   2.       Respiratory failure:  tenuous at baseline with right-sided
   pleural effusion and now with secretions and minimal cough
   - pulmonary toilet with suctioning
   - No current evidence of PNA
   3.       Neuro:
   -  Will consult neurology regarding possible anoxic brain injury in
   setting of PEA, interested in prognostic information.
   - Likely MRI/EEG, but will discuss with neuro first.
   4.       Renal:
   - If remains off pressors, discuss with renal regarding HD today or
   tomorrow.  No current acute indication for HD.
   5.       CV: h/o CAD, PPM
   - continue statin
   6.       ID:  possible neurosyphillis
   - ceftriaxone x 14 days total
   ICU Care
   Nutrition: Tube feeds via PEG
   Glycemic Control:  Insulin sliding scale
   Lines:
   Midline - [**2163-12-19**] 05:18 PM
   22 Gauge - [**2163-12-19**] 05:19 PM
   Arterial Line - [**2163-12-19**] 07:00 PM
   Multi Lumen - [**2163-12-19**] 10:00 PM
 when stable off pressors will
   discontinue femoral line
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP:  Not intubated
   Communication: Family meeting held
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:  35minutes CCT

2163-12-22 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p PEA arrest
   24 Hour Events:
 ARTERIAL LINE - STOP [**2163-12-22**] 01:57 AM
   ?placed in Ir during code
   Neuro consulted regarding prognosis, asked for CT scan, EEG.  No
   evidence of significant anoxic injury.  Pacemaker is not MRI
   compatible.  Sputum culture with pseudomonas, likely colonizer as
   identified earlier.  ID suggested, if evidence of pneumonia, treat with
   cefepime first then do course of ctx.  Updated family.
   Lost A-line
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-21**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-12-22**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-22**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 91 (81 - 103) bpm
   BP: 123/15(43) {88/15(35) - 155/77(93)} mmHg
   RR: 21 (18 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,590 mL
                                                                    722 mL
   PO:
             TF:
                                                                  1,007 mL
                                                                    372 mL
   IVF:
                                                                    504 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,590 mL
                                                                    722 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: 7.39/37/112/25/-1
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Absent : right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   235 K/uL
   7.5 g/dL
   170 mg/dL
   2.6 mg/dL
   25 mEq/L
   3.7 mEq/L
   35 mg/dL
   106 mEq/L
   139 mEq/L
   24.6 %
   9.2 K/uL
        [image002.jpg]
                             [**2163-12-20**]  01:40 AM
                             [**2163-12-20**]  02:34 AM
                             [**2163-12-20**]  04:09 AM
                             [**2163-12-20**]  04:24 AM
                             [**2163-12-20**]  10:50 AM
                             [**2163-12-20**]  02:50 PM
                             [**2163-12-21**]  03:55 AM
                             [**2163-12-21**]  10:26 AM
                            [**2163-12-22**]  02:23 AM
                            [**2163-12-22**]  06:00 AM
   WBC
   9.0
   6.6
   9.2
   Hct
   26.0
   25.3
   24.6
   Plt
   [**Telephone/Fax (3) 11081**]
   Cr
   3.2
   3.8
   2.6
   TCO2
   21
   22
   28
   25
   23
   23
   0
   Glucose
   57
   118
   170
   Other labs: PT / PTT / INR:13.7/42.3/1.2, ALT / AST:32/35, Alk Phos / T
   Bili:127/0.1, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:142 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Imaging: CT Head:
   1. No acute hemorrhage, mass effect, large mass, edema, or acute
   infarction is
   noted.
   2. Stable large region of cystic encephalomalacia and volume loss,
   consistent
   with remote right MCA territorial infarction.
   3. No pathologic enhancement.
   CXR: ? slight worsening on right
   Microbiology: GRAM STAIN (Final [**2163-12-19**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         Commensal Respiratory Flora Absent.
         PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH.
         GRAM NEGATIVE ROD #2.    RARE GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                PSEUDOMONAS AERUGINOSA
                                |
   CEFEPIME--------------     4 S
   CEFTAZIDIME-----------     4 S
   CIPROFLOXACIN---------     2 I
   GENTAMICIN------------     4 S
   MEROPENEM-------------     1 S
   PIPERACILLIN/TAZO-----    32 S
   TOBRAMYCIN------------   <=1 S
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CARDIAC ARREST
 PNEUMONIA, OTHER
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   74 yo M with ESRD, effusion, altered mental status, s/p PEA arrest,
   hypotension, hypoxemia, and possible neuro-syphilis.
   #  Hypotension: off pressors currently.  His shock was likely [**2-14**]
   myocardial stunning from hypoxia and contusion from CPR.  Further
   differential includes septic shock and adrenal insufficiency.  Patient
   s/p PEA arrest which was most likely secondary to respiratory arrest
   from mucous plugging and possibly laying on his right side with all of
   his cardiac output going to non-ventilated lung. Now off pressors for
   24 hours
   - stress dose steroids.  Will go to prednisone 20 for a few days
   tomorrow and d/c hydrocort.
   .
   # Hypoxemic respiratory failure: Now stable post-extubation on 3L NC.
   On face tent for humification only.  Sputum with pseudomonas, likely a
   colonizer but his WBC is up slightly and his CXR is slightly worse.
   Consider treatment with cefepime if clinically worsens.  Will keep
   right-side up to perfuse good side.
   - continue ceftriaxone for now, change to cefepime/cipro if worsening
   - follow sputum culture
   - Q2h pulmonary toilet
   .
   # Altered mental status: Baseline mental status is not oriented but
   intermittently interactive and talking. Has yet to talk but is moving
   his right side as he previously had. CT head with no signs of worsening
   or anoxic brain injury. Cannot get MRI due to pacemaker. [**Month (only) 60**] be
   persistent hypoactive delirium from sedation or ICU setting.
   -EEG
   -Con
t to monitor
   .
   #Possible Neurosyphilis: Per ID will start CTX
   - CTX 2g Q24 in PM for 14 days
   .
   #ESRD: No urgent need for dialysis currently, electrolytes stable.
   - f/u renal recs
   - dialysis dose medications
   - likely HD today or tomorrow
   .
   # Pacemaker: EP interogated pacer, no episodes of bradycardia. Consider
   getting dual chamber pacer at some point in the future, follow up with
   his cardiologist at [**Hospital1 147**].
   .
   #VRE UTI: finished course of linezolid [**12-20**]
   .
   #DMII: Continue previous insulin regimen
   .
   #Vasculopathy:
   - continue simvastatin, lisinopril and ASA when stable
 ALTERATION IN NUTRITION
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2163-12-21**] 11:02 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2163-12-19**] 05:18 PM
   Multi Lumen - [**2163-12-19**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2163-12-22 11:25:00 Physician Attending Progress Note
Chief Complaint: PEA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74M w/ ESRD; s/p PEA in setting of hypoxemia.
   24 Hour Events:
   Seen by neurology yesterday regarding possible anoxic brain injury
   following PEA/hypoxemia x 8 minutes.  Head CT not concerning of anoxic
   injury; undergoing EEG today.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-21**] 09:00 PM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-12-22**] 08:00 AM
   Other medications:
   Prednisone 10mg
   Vitamin C
   MVI
   Folic Acid
   Lansoprazole
   ASA 81mg daily
   Simvastatin
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-12-22**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 86 (86 - 102) bpm
   BP: 142/55(77) {88/15(35) - 161/77(93)} mmHg
   RR: 22 (18 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,590 mL
                                                                  1,083 mL
   PO:
             TF:
                                                                  1,007 mL
                                                                    553 mL
   IVF:
                                                                    504 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,590 mL
                                                                  1,083 mL
   Respiratory support
   O2 Delivery Device: Face tent .35
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Gen: Not conversant; moving right arm but not clearly purposeful.
   Withdraws to nailbed pressure and pain. Somnolent.
   Chest: rhonchi
   CV: RRR
   Abd: s/nt/nd
   Ext: left upper extremity edema
   Labs / Radiology
   7.5 g/dL
   235 K/uL
   170 mg/dL
   2.6 mg/dL
   25 mEq/L
   3.7 mEq/L
   35 mg/dL
   106 mEq/L
   139 mEq/L
   24.6 %
   9.2 K/uL
        [image002.jpg]
                             [**2163-12-20**]  01:40 AM
                             [**2163-12-20**]  02:34 AM
                             [**2163-12-20**]  04:09 AM
                             [**2163-12-20**]  04:24 AM
                             [**2163-12-20**]  10:50 AM
                             [**2163-12-20**]  02:50 PM
                             [**2163-12-21**]  03:55 AM
                             [**2163-12-21**]  10:26 AM
                            [**2163-12-22**]  02:23 AM
                            [**2163-12-22**]  06:00 AM
   WBC
   9.0
   6.6
   9.2
   Hct
   26.0
   25.3
   24.6
   Plt
   [**Telephone/Fax (3) 11081**]
   Cr
   3.2
   3.8
   2.6
   TCO2
   21
   22
   28
   25
   23
   23
   0
   Glucose
   57
   118
   170
   Other labs: PT / PTT / INR:13.7/42.3/1.2, ALT / AST:32/35, Alk Phos / T
   Bili:127/0.1, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:142 IU/L,
   Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Micro:  sparse PsA: Intermediate to cipro; otherwise sensitive
   Head CT: no acute change; chronic changes stable.
   CXR: Stable right-sided effusion.
   Assessment and Plan
   74M with ESRD; s/p PEA with hypoxemia.
   1.       Respiratory failure:
   - minimal oxygen requirement; face mask for humidification purposes.
   - Trial off supplemental oxygen
   - Can try saline nebs if needed for humidification
   2.       Neuro:
   - appreciate neuro consult
   - f/u EEG
   - head CT reassuring
   - not clear how far off his baseline he currently is
   3.       Renal:
   - HD today
   4.       +sputum culture:  PsA likely colonizer
   - no antibiotics for now
   5.       Adrenal insufficiency:
   -  Prednisone 10mg, drop down to home dose in 24-48h if stable.
   ICU Care
   Nutrition:  NovaSource Renal (Full) - [**2163-12-22**] 09:01 AM 50 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   Midline - [**2163-12-19**] 05:18 PM
   Multi Lumen - [**2163-12-19**] 10:00 PM
   Prophylaxis:
   DVT:  heparin prophylaxis
   Stress ulcer: PPI
   VAP:  Not intubated
   Communication:  Comments: Familiy updated
   Code status: Full code
   Disposition : Transfer to floor
   Total time spent:  25minutes

2163-12-23 11:38:00 Physician Attending Progress Note
Chief Complaint:
   PEA
   HPI:
    74M h/o CVA and chronic R effusion; admitted to ICU s/p PEA.
   24 Hour Events:
   Mucus plug o/n with hypoxemia, and improved with suctioning/pulmonary
   toilet.
   EEG obtained with diffuse slowing.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-12-22**] 08:00 PM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-12-23**] 08:00 AM
   Other medications:
   Insulin sliding scale
   Vitamin C
   MVI
   Folic acid
   Lansoprazole
   ASA 81mg daily
   Simvastatin
   Prednisone 10mg daily
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No change
   Flowsheet Data as of  [**2163-12-23**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 88 (88 - 115) bpm
   BP: 149/71(89) {102/31(38) - 197/90(102)} mmHg
   RR: 24 (21 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,162 mL
                                                                    985 mL
   PO:
             TF:
                                                                  1,201 mL
                                                                    565 mL
   IVF:
                                                                    151 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    162 mL
                                                                    985 mL
   Respiratory support
   O2 Delivery Device: Face tent 35%
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   Gen: non-responsive but grimaces slightly  to sternal rub
   Chest: decrease breath sounds right chest, few crackles left base
   CV: S1S2 reg
   Abd: soft, BS present, NT
   Ext: s/p 10 toe amputation, no edema
   Labs / Radiology
   7.6 g/dL
   208 K/uL
   85 mg/dL
   1.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   24 mg/dL
   107 mEq/L
   138 mEq/L
   24.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2163-12-20**]  02:34 AM
                             [**2163-12-20**]  04:09 AM
                             [**2163-12-20**]  04:24 AM
                             [**2163-12-20**]  10:50 AM
                             [**2163-12-20**]  02:50 PM
                             [**2163-12-21**]  03:55 AM
                             [**2163-12-21**]  10:26 AM
                            [**2163-12-22**]  02:23 AM
                            [**2163-12-22**]  06:00 AM
                            [**2163-12-23**]  05:54 AM
   WBC
   9.0
   6.6
   9.2
   8.2
   Hct
   26.0
   25.3
   24.6
   24.5
   Plt
   [**Telephone/Fax (3) 11089**]08
   Cr
   3.2
   3.8
   2.6
   1.8
   TCO2
   22
   28
   25
   23
   23
   0
   Glucose
   57
   118
   170
   85
   Other labs: PT / PTT / INR:13.7/42.3/1.2, ALT / AST:32/35, Alk Phos / T
   Bili:127/0.1, Lactic Acid:1.6 mmol/L, Albumin:2.2 g/dL, LDH:142 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   EEG: no evidence of seizures
   Micro: Sputum with klebsiella
   CXR: RUL collapse ([**12-22**])
   Assessment and Plan
   74M history of CVA, chronic right-sided effusion; s/p PEA during LP and
   PICC placement secondary to hypoxemia and likely mucus plug.
   1.       Hypoxemia:  secondary to mucus plugging; poor cough
   - continue pulmonary toilet as needed
   - Klebsiella on sputum culture; treated with ceftriaxone
   - humidified O2
   2.       Neuro: Head CT unchanged, EEG without status.  Unable to
   obtain MRI secondary to PPM
   - no evidence of anoxic brain injury based on imaging; likely residual
   effects of sedation with some concern for new CVA
   3.       Hypotension: resolved, off pressors x 2 days; also concern for
   adrenal insufficiency given chronic steroids.
   - Decrease prednisone to 5mg tomorrow
   4.       Renal:
   - HD tomorrow
   ICU Care
   Nutrition: NovaSource Renal (Full) - [**2163-12-23**] 05:01 AM 50 mL/hour
   Glycemic Control:   Insulin sliding scale/standing dose
   Lines:
   Midline - [**2163-12-19**] 05:18 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: Not intubated
   Communication:  Family updated during rounds
   Code status: Full code
   Disposition : ICU, re-evaluate later today and likely call-out
   Total time spent:  35 minutes